### PR TITLE
Refactoring of relations.v

### PR DESCRIPTION
**Pull request by dmitromikh**
This change is [Reviewable](https://reviewable.io/reviews/volodeyka/event-struct/34)

### CODE REVIEW

File: relations.v [hunk 1]
```diff
@@ -31,136 +30,145 @@ Hypothesis descend : forall x n, x \in f n -> x <= n.
...
   rewrite/sfrel /=.
   elim=> [x /filter_lt // | x y xfy acx ax].
-  apply: lt_trans; last by apply: ax.
+  apply: lt_trans; first exact: ax.
   exact: filter_lt.
-Qed. 
+Qed.
+
+Notation step := (@tn1_trans T (sfrel f\eq) _ _ _).
+Notation base := (@tn1_step T (sfrel f\eq) _).
```
Comment (eupp) [inline relations.v:65]: How these notations are used?

File: relations.v [hunk 2]
```diff
@@ -31,136 +30,145 @@ Hypothesis descend : forall x n, x \in f n -> x <= n.
...
+      by rewrite mem_cat b. }
+    constructor. rewrite /t_closure. funelim (s_up_set n).
+    by rewrite mem_cat b. }
+  case=> [b |]; last exact: mem_head.
+  rewrite /t_closure in_cons. by funelim (s_up_set b) => ->.
+Qed.
 
-Lemma rt_closure_refl a : rt_closure a a.
-Proof. rewrite /rt_closure /up_set. exact: mem_head. Qed.
+Lemma trans_refl_trans a b  {R : rel T}:
```
Comment (eupp) [inline relations.v:114]: By analogy to `clos_r_clos_rt` let's name it `clos_t_clos_rt`. 
Also, I think it's better to have `R` as the first argument.

File: relations.v [hunk 3]
```diff
@@ -31,136 +30,145 @@ Hypothesis descend : forall x n, x \in f n -> x <= n.
...
+  split; first exact: neq. done. }
+  apply /clos_trans_tn1 /t_trans.
+  { move: (refl_eq_neq (refl_t_rt a c rtac)) => [/eqP //|tac].
+  apply /clos_tn1_trans /t_closureP /tac. }
+  constructor. rewrite /sfrel /filter_neq /= mem_filter. apply /andP.
+  split; first exact: neq. done.
+Qed.
+
+Lemma rt_closure_refl : reflexive rt_closure.
+Proof. move=> a. exact: mem_head. Qed.
```
Comment (eupp) [inline relations.v:155]: Put it near to `rt_closure_trans`

File: relations.v [hunk 4]
```diff
@@ -31,136 +30,145 @@ Hypothesis descend : forall x n, x \in f n -> x <= n.
...
+    by rewrite /filter_neq /sfrel /= mem_filter => /andP[]. }
+  apply /tn1_trans; last exact: ctac. move: sfcd. 
+  by rewrite /filter_neq /sfrel /= mem_filter => /andP[].
 Qed.
 
+Lemma refl_eq_neq a b {R : relation T} :
+  clos_refl T R a b -> (a == b) \/ R a b.
+Proof. case; first by right. left. exact: eq_refl. Qed.
+
+Lemma refl_trans_refl_rt a b :
```
Comment (eupp) [inline relations.v:135]: Looks like this one is a very technical lemma. Is it really needed outside `rt_closureP`? 
If not, I would just put it back into `rt_closureP` proof.

File: relations.v [hunk 5]
```diff
@@ -31,136 +30,145 @@ Hypothesis descend : forall x n, x \in f n -> x <= n.
...
-  { apply /clos_t1n_trans /t_closureP. exact: ba. }
-  apply /clos_t1n_trans /t_closureP. exact: cb.
+  elim=> [c sfac | c d sfcd ctacn ctac].
+  { apply /tn1_step. move: sfac.
+    by rewrite /filter_neq /sfrel /= mem_filter => /andP[]. }
+  apply /tn1_trans; last exact: ctac. move: sfcd. 
+  by rewrite /filter_neq /sfrel /= mem_filter => /andP[].
 Qed.
 
+Lemma refl_eq_neq a b {R : relation T} :
```
Comment (eupp) [inline relations.v:131]: I think this kind of lemmas is named with the suffix `E` in ssreflect? @anton-trunov 
If so, I would propose to rename it into `clos_reflE` and also proof the other direction, i.e. to have 
`clos_refl T R a b <-> (a == b) \/ R a b`

**Review by eupp — CHANGES_REQUESTED** [review]

File: relations.v [hunk 6]
```diff
@@ -31,136 +30,145 @@ Hypothesis descend : forall x n, x \in f n -> x <= n.
...
+  { constructor. rewrite /sfrel /filter_neq /= mem_filter. apply /andP.
+  split; first exact: neq. done. }
+  apply /clos_trans_tn1 /t_trans.
+  { move: (refl_eq_neq (refl_t_rt a c rtac)) => [/eqP //|tac].
+  apply /clos_tn1_trans /t_closureP /tac. }
+  constructor. rewrite /sfrel /filter_neq /= mem_filter. apply /andP.
+  split; first exact: neq. done.
+Qed.
+
+Lemma rt_closure_refl : reflexive rt_closure.
```
Comment (volodeyka) [inline relations.v:154]: @anton-trunov said that reflexivity should be formulated explicitly (because otherwise, reduction works bad).

**Comment by volodeyka** [comment]
Can we prove here antisymmetry of closed relation?

File: relations.v (hunk 6 above)
Comment (anton-trunov) [reply relations.v:154]: Not really reduction. It's the `auto` tactic and alike. Those do not run reduction, so they won't be able to see that `R x x` can be solved with `reflexive R`, so `//` is not going to work on these trivial goals.

File: relations.v (hunk 4 above)
Comment (anton-trunov) [reply relations.v:135]: I would say `(a == b) \/ R a b` is a mix of boolean and propositional statements. It seems that if it's needed at all it should either be `(a = b) \/ R a b` or `(a == b) || R a b`.

Comment (anton-trunov) [reply relations.v:135]: Sorry, this comment was intended for `refl_eq_neq` lemma.

File: relations.v (hunk 5 above)
Comment (anton-trunov) [reply relations.v:131]: The suffix `E`  is for *elimination*, e.g. `negbFE : ~~ b = false -> b`, which means negation elimination related to boolean false (`F`).

**Comment by anton-trunov** [comment]
The fact that this PR unfold things like `filter_neq` and `filter_lt` *a lot* tells us that either these definitions are not covered with enough lemmas or that these definitions are spurious and not well justified. (Rant aside: sorry, but I especially dislike the notation for `filter_neq`.)

File: relations.v (hunk 5 above)
Comment (eupp) [reply relations.v:131]: > The suffix `E` is for _elimination_, e.g. `negbFE : ~~ b = false -> b`, which means negation elimination related to boolean false (`F`).

So then want name for this lemma we should pick ?)

**Comment by eupp** [comment]
> The fact that this PR unfold things like `filter_neq` and `filter_lt` _a lot_ tells us that either these definitions are not covered with enough lemmas or that these definitions are spurious and not well justified. (Rant aside: sorry, but I especially dislike the notation for `filter_neq`.)

I generally agree. The whole `filter_neq` business looks hacky. But we need it if we have a non-strict descend axiom:

```Coq
Hypothesis descend : forall x n, x \in f n -> x <= n.
```

I have a feeling that with the strict version the theory and proofs would look nicer. 
But we have added the non-strict version in order to also cover the case (in future) of regular total functions of type `f : A -> A`. 
Here we cannot assume that function is strictly-decreasing w.r.t. to well-founded order. 
In this case we use the loop trick and map the "terminal" element to itself. 
But then, we need to handle this "looping", that is exactly what `filter_neq` is responsible for.

File: relations.v (hunk 5 above)
Comment (anton-trunov) [reply relations.v:131]: Oh, yes, you are right. `clos_reflE` is a fine name in this case. Sorry, the UI gets confusing with a lot of comments in-place.

**Comment by anton-trunov** [comment]
Ah, I see! I this case I'd suggest to rename `filter_neq` semantically then (`non_looping` or `strict` or something like that). And a small theory of it should be developed so that there would be no need to unfold it.

File: relations.v [hunk 7]
```diff
@@ -31,136 +30,145 @@ Hypothesis descend : forall x n, x \in f n -> x <= n.
 Lemma filter_lt n k : k \in f\eq n -> k < n.
 Proof. by rewrite mem_filter lt_neqAle => /andP[] -> /descend ->. Qed.
 
-Lemma rel_sublt a b : (sfrel f\eq) a b -> b < a.
+Lemma rel_sublt a b : (sfrel f\eq) a b -> a < b.
 Proof. rewrite/sfrel /=. exact: filter_lt. Qed.
 
+Definition hack n (g : forall x : T, x < n -> seq T) :=
```
[the remark this answers is not in the document]
Comment (dmitromikh) [reply relations.v:36]: I agree, will it be better to call it `s_up_set_aux`?

File: relations.v (hunk 1 above)
Comment (dmitromikh) [reply relations.v:65]: They were used in the proof of the `t_closureP` lemma, but they can be easily removed.

File: relations.v [hunk 8]
```diff
@@ -31,136 +30,145 @@ Hypothesis descend : forall x n, x \in f n -> x <= n.
...
 (* Computation of the (non-strict) upward set of a given element
  * w.r.t relation R derived from function `f`,
  * i.e. up_set(x) = { y | x = y \/ x R y } 
  *)
 Definition up_set a := a :: s_up_set a.
 
-Definition rt_closure a b := b \in up_set a. 
+Definition rt_closure a b := a \in up_set b. 
+
+Lemma refl_t_rt a b :
```
[the remark this answers is not in the document]
Comment (dmitromikh) [reply relations.v:99]: Okay.

File: relations.v [hunk 9]
```diff
@@ -31,136 +30,145 @@ Hypothesis descend : forall x n, x \in f n -> x <= n.
...
+  apply: lt_trans; first exact: ax.
   exact: filter_lt.
-Qed. 
+Qed.
+
+Notation step := (@tn1_trans T (sfrel f\eq) _ _ _).
+Notation base := (@tn1_step T (sfrel f\eq) _).
 
 (* Transitive closure reflection lemma *)
 Lemma t_closureP a b :
```
[the remark this answers is not in the document]
Comment (dmitromikh) [reply relations.v:68]: Okay.

File: relations.v [hunk 10]
```diff
@@ -31,136 +30,145 @@ Hypothesis descend : forall x n, x \in f n -> x <= n.
...
-  rewrite /s_up_set /Subterm.FixWf Fix_eq; last by apply: ext_s_up_set.
-  rewrite {1}/s_up_set_functional mem_cat => /orP [/filter_lt //|].
-  case/flatten_mapP=> x /filter_lt xinf.
-  case: eqP => //. move=> /filter_lt /IH /apply ax. 
-  by apply: lt_trans; first apply: ax.
-Qed.
+Definition t_closure (a b : T) : bool := a \in s_up_set b.
 
-Lemma clos_trans_lt a b : clos_trans_n1 T (sfrel f\eq) a b -> b < a.
+Lemma clos_trans_lt a b : clos_trans_n1 T (sfrel f\eq) a b -> a < b.
```
[the remark this answers is not in the document]
Comment (dmitromikh) [reply relations.v:56]: Okay.

File: relations.v (hunk 2 above)
Comment (dmitromikh) [reply relations.v:114]: Okay.

File: relations.v (hunk 3 above)
Comment (dmitromikh) [reply relations.v:155]: It is here because it is used in the proof of `rt_closureP` which, in turn, is used in the proof of `rt_closure_trans`.

File: relations.v (hunk 4 above)
Comment (dmitromikh) [reply relations.v:135]: Yes, it is technical, so I'll move it into the proof of `refl_trans_refl_rt`.

File: relations.v (hunk 5 above)
Comment (dmitromikh) [reply relations.v:131]: Well, now we don't need its name :)

File: relations.v (hunk 6 above)
Comment (dmitromikh) [reply relations.v:154]: Okay.

File: relations.v (hunk 7 above)
[the remark this answers is not in the document]
Comment (eupp) [reply relations.v]: > I agree, will it be better to call it `s_up_set_aux`?

For now, this name should work. 
In a while I'm still think about a better name for `s_up_set`.

File: relations.v (hunk 1 above)
Comment (eupp) [reply relations.v]: > They were used in the proof of the `t_closureP` lemma, but they can be easily removed.

If it's not crucial, I would remove them.

File: relations.v (hunk 3 above)
Comment (eupp) [reply relations.v]: I see. Okay then.

File: relations.v (hunk 5 above)
Comment (eupp) [reply relations.v]: Still, it might be a useful lemma. We can leave it (and, perhaps, put it into `utilities.v`)

File: relations.v [hunk 11]
```diff
@@ -15,152 +14,189 @@ Local Open Scope order_scope.
...
+  constructor. auto.
+Qed.
+
+Lemma rt_closure_refl a : rt_closure a a.
+Proof. exact: mem_head. Qed.
+
 (* Reflexive-transitive closure reflection lemma *)
 Lemma rt_closureP a b :
-  reflect (clos_refl_trans_1n T (sfrel f) a b) (rt_closure a b).
+  reflect (clos_refl_trans_n1 T (sfrel f) a b) (rt_closure a b).
```
Comment (eupp) [inline relations.v:175]: I would propose to do with `rt_closureP` the same as we did with `t_closureP`, i.e. to have two versions for `clos_refl_trans_n1` and `clos_refl_trans`.

**Review by eupp — CHANGES_REQUESTED** [review]

File: relations.v (hunk 3 above)
Comment (dmitromikh) [reply relations.v]: Yeah, you're right. It's my fault.

File: relations.v (hunk 11 above)
Comment (dmitromikh) [reply relations.v:175]: Okay.

File: relations.v (hunk 3 above)
Comment (eupp) [reply relations.v]: > Yeah, you're right. It's my fault.

It's fine :)
So could you please then move it near to `rt_closure_trans` (before it).

**Comment by eupp** [comment]
I would propose to postpone the `filter_neq` stuff and later make another PR targeting its refactoring. 
So that we can merge the current piece of work into master.

**Review by eupp — APPROVED** [review]
